US05543559
A mixture of 91.3 g (0.6 mol) of ketoisophorone, 600 g (2.65 mol) of benzoic anhydride, 251 mL (1.8 mol) of triethylamine and 3.66 g (0.03 mol) of 4-(dimethylamino)pyridine was stirred at 65° C. under argon for 18 hours and diluted with 1 l of ether. 260 ml of ethylenediamine were added dropwise at 0°-10° while cooling. The precipitate was filtered off and washed with 1.5 l of ether. The combined filtrate was extracted with saturated NaHCO3 solution (1 l), then with saturated sodium chloride solution, dried over Na2SO4 and evaporated. The crude product (137.8 g), a brown crystalline residue, was chromatographed over silica gel (n-hexane/ether 5/1). 117.4 g (76.3%) of 4-benzoyloxy 2,6,6-trimethylcyclohexa-2,4-dien-1-one were obtained as a yellow crystallizate. Recrystallization from tert.-butyl methyl ether/n-hexane (1/1) yielded pure benzoate, m.p. 64°-66° C.

reactant | ketoisophorone | 0.6 mol, 91.3 g | O=C1C(=CC(=O)CC1(C)C)C | C9H12O2
reactant | benzoic anhydride | 2.65 mol, 600 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | triethylamine | 1.8 mol, 251 mL | C(C)N(CC)CC | C6H15N
reactant | ethylenediamine | 260 ml | C(CN)N | C2H8N2
catalyst | 4-(dimethylamino)pyridine | 0.03 mol, 3.66 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | 1 l | CCOCC | C4H10O
product | 4-benzoyloxy 2,6,6-trimethylcyclohexa-2,4-dien-1-one | 117.4 g, 76.3% | C(C1=CC=CC=C1)(=O)OC=1C=C(C(C(C1)(C)C)=O)C | C16H16O3
